US07714017B2
Synthesis of (E)-3-[4-(3-Chloro-4-fluoro-phenoxy)-1-methyl-1H-indol-3-yl]-acrylic acid ethyl ester, K-59G.
Synthesis of (E)-3-[4-(3-Chloro-4-fluoro-phenoxy)-1-methyl-1H-indol-3-yl]-acrylic acid, A38. Following the general procedure P-8, K-59G was hydrolyzed to acrylic acid A38. 1H NMR (DMSO-d6) 3.85 (s, 3H), 6.24 (d, J=16 Hz, 1H), 6.66 (d, J=8 Hz, 1H), 7.00 (m, 1H), 7.20 (dd, J=8 and 8 Hz, 1H), 7.25 (m, 1H), 7.35 (d, J=8 Hz, 1H), 7.43 (dd, J=9 and 9 Hz, 1H), 7.88 (d, J=16 Hz, 1H), 8.07 (s, 1H), 11.8 (s, 1H).

reactant | (E)-3-[4-(3-Chloro-4-fluoro-phenoxy)-1-methyl-1H-indol-3-yl]-acrylic acid | ClC=1C=C(OC2=C3C(=CN(C3=CC=C2)C)/C=C/C(=O)O)C=CC1F | C18H13ClFNO3
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
product | (E)-3-[4-(3-Chloro-4-fluoro-phenoxy)-1-methyl-1H-indol-3-yl]-acrylic acid ethyl ester | C(C)OC(\C=C\C1=CN(C2=CC=CC(=C12)OC1=CC(=C(C=C1)F)Cl)C)=O | C20H17ClFNO3
